US08058300B2
Step 2: 5-(4-Bromo-phenyl)-3-ethyl-isoxazole-4-carboxylic acid methyl ester:
Prepared according to the procedure described in Example 1, Step 3 using 2-(4-bromo-benzoyl)-3-oxo-pentanoic acid methyl ester and hydroxylamine hydrochloride.

reactant | 2-(4-bromo-benzoyl)-3-oxo-pentanoic acid methyl ester | COC(C(C(CC)=O)C(C1=CC=C(C=C1)Br)=O)=O | C13H13BrO4
reactant | hydroxylamine hydrochloride | Cl.NO
product | 5-(4-Bromo-phenyl)-3-ethyl-isoxazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NOC1C1=CC=C(C=C1)Br)CC | C13H12BrNO3
